* source P1_PAI
C_C2         N06552 N06634  4.7u  TC=0,0 
R_R3         0 N06800  2k TC=0,0 
R_R7         N11122 N06800  22k TC=0,0 
R_R1         0 N06894  100k TC=0,0 
R_R13         VCC N08073  220k TC=0,0 
Q_Q2         N06552 N06702 N06720 BC846B 
C_C3         N06634 N06648  4.7u  TC=0,0 
Q_Q1         N06702 N06758 N06800 BC846B 
R_R12         N11425 N06894  1k TC=0,0 
R_R11         N06884 N06894  55K TC=0,0 
C_C4         0 N06880  10u  TC=0,0 
R_R9         N06880 N06720  1 TC=0,0 
C_C1         N06894 N06758  4.7u  TC=0,0 
X_R14         0 N06648 N06648 POT PARAMS: SET=0.5 VALUE=50k
R_R2         N12470 N12582  180k TC=0,0 
V_V1         N06884 0  AC 0.1
+SIN 0 0.1v 1k 0 0 0
R_R4         N06552 N09982  10k TC=0,0 
R_R6         N08562 N06758  180k TC=0,0 
V_V2         VCC 0 18v
R_R5         0 N06880  1k TC=0,0 
R_R15         N11126 N06634  68k TC=0,0 
R_R17         N11122 N11126  10k TC=0,0 
R_R18         VCC N08073  150k TC=0,0 
R_R19         N06702 N08073  220k TC=0,0 
R_R20         N08562 N06880  180k TC=0,0 
C_C5         0 N06880  10u  TC=0,0 
R_R22         N09982 VCC  10k TC=0,0 
R_R23         N09982 VCC  10k TC=0,0 
R_R24         0 N11425  3.3k TC=0,0 
R_R25         0 N06800  2k TC=0,0 
R_R26         N12458 N08073  15k TC=0,0 
R_R27         N12582 N06702  15k TC=0,0 
R_R28         N12470 N12458  10k TC=0,0 
R_R29         0 N06894  100k TC=0,0 
